US06197798B1
6N Sodium hydroxide (260 mL) is added slowly at room temperature to a solution of 183 g of methyl 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylate in 1200 mL of methanol. The reaction mixture is heated under gentle reflux for 2.5 hours, cooled to room temperature and diluted with 300 mL of water. The reaction mixture is evaporated under reduced pressure (110-120 mbar/40° C.) to a suspension of about 750 mL which is filtered through the filter agent Celite® 521, and the filter cake is washed sequentially with 250 mL of water and 250 mL of heptane. The organic layer is separated and the aqueous layer is washed with 250 mL of heptane. The aqueous layer is acidified with 500 mL of 4N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate extract is washed with water and filtered through the filter agent Celite® 521. The ethyl acetate solution (ca. 1000 mL) is evaporated under reduced pressure (110-120 mbar/40° C.) to a volume of 600 mL to which is added heptane (3125 mL). The suspension is then heated to reflux until a clear solution is obtained, the solution is cooled to 0° C. and the resulting solid is filtered off to yield 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylic acid.

reactant | Sodium hydroxide | 6N, 260 mL | [OH-].[Na+]
reactant | methyl 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylate | 183 g | CC=1C=CC=C(C1C1=CC=C(C=C1)C(F)(F)F)C(=O)OC | C16H13F3O2
solvent | methanol | 1200 mL | CO | CH4O
solvent | water | 300 mL | O | H2O
product | 6-methyl-4′-trifluoromethyl-biphenyl-2-carboxylic acid | CC=1C=CC=C(C1C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C15H11F3O2
